US04423213
A mixture of ethyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate (20 g) and sulfuryl chloride (7.7 g) in acetic acid (20 ml) was stirred at 40° C. for 7 hours. After the reaction mixture was added to a mixture of water (100 ml) and methylene chloride (100 ml) with stirring, the separated organic layer was washed with 5% aqueous sodium bicarbonate and water, followed by drying over magnesium sulfate. Removal of the solvent gave ethyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-4-chloro-3-oxobutyrate (22 g).

reactant | ethyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate | 20 g | ClC(COC(=O)CON=C(C(=O)OCC)C(C)=O)(Cl)Cl | C10H12Cl3NO6
reactant | sulfuryl chloride | 7.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 100 ml | O | H2O
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-4-chloro-3-oxobutyrate | 22 g | ClC(COC(=O)CON=C(C(=O)OCC)C(CCl)=O)(Cl)Cl | C10H11Cl4NO6
